US07842685B2
Synthesis of 1-((3-fluoro-4-(5-(1-phenylcyclopropyl)[1,3]thiazolo[5,4-b]pyridin-2-yl)phenyl)carbonyl)-3-azetidinecarboxylic acid
The title compound was synthesized using the procedure described in Example 105 above, with 3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)benzoic acid (104 mg, 0.266 mmol) and azetidine-3-carboxylic acid (32 mg, 0.320 mmol). MS (ESI) m/z: Calculated: 473.1; Observed: 474.1 (M++1).

reactant | 3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)benzoic acid | 0.266 mmol, 104 mg | FC=1C=C(C(=O)O)C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1 | C22H15FN2O2S
reactant | azetidine-3-carboxylic acid | 0.320 mmol, 32 mg | N1CC(C1)C(=O)O | C4H7NO2
product | 1-((3-fluoro-4-(5-(1-phenylcyclopropyl)[1,3]thiazolo[5,4-b]pyridin-2-yl)phenyl)carbonyl)-3-azetidinecarboxylic acid | FC=1C=C(C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)C(=O)N1CC(C1)C(=O)O | C26H20FN3O3S
